US09416111B2
To a solution of 5-bromo-2-chloro pyrimidine (1.00 g, 5.17 mmol) and ethyl 4-hydroxycyclohexanoate (0.834 mL, 5.17 mmol) in DMF (20 mL) was added sodium hydride NaH (60% weight in mineral oil, 0.227 g, 5.69 mmol). The reaction mixture was stirred for 16 hours before being diluted with saturated aqueous sodium bicarbonate (50 mL), ethyl acetate (50 mL), and diethyl ether (50 mL). The layers were separated and the organic layer was washed with water (3×50 mL) and then brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (ethyl acetate/hexanes) to yield ethyl 4-[(5-bromopyrimidin-2-yl)oxy]cyclohexanecarboxylate as a mixture of cis and trans isomers. MS ESI calc'd. for C13H18BrN2O3 [M+H]+ 329 and 331. found 329 and 331.

reactant | 5-bromo-2-chloro pyrimidine | 5.17 mmol, 1.00 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | ethyl 4-hydroxycyclohexanoate | 5.17 mmol, 0.834 mL | OC1CCC(CC1)C(=O)OCC | C9H16O3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | ethyl 4-[(5-bromopyrimidin-2-yl)oxy]cyclohexanecarboxylate | BrC=1C=NC(=NC1)OC1CCC(CC1)C(=O)OCC | C13H17BrN2O3
